US09278950B2
Step 1. 3-{[(Benzyloxy)carbonyl]amino}-7-(2-oxopiperidin-1-yl)quinoline-2-carboxylic acid
A mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (300 mg, 0.7 mmol), 2-piperidinone (90 mg, 0.91 mmol), Pd(OAc)2 (0.010 mg, 0.064 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.020 g, 0.049 mmol), and Cs2CO3 (0.28 g, 0.86 mmol) in dioxane (1 mL) was purged with nitrogen and then heated at 100° C. in a sealed vial for 1 h. The solution was allowed to cool and NH4Cl solution and EtOAc were added. The resulting layers were separated and the aqueous phase was extracted twice with EtOAc. The combined organic extracts were concentrated to dryness under reduced pressure. To the resulting residue, 1 mL of dioxane, 2 mL of THF, and 2 mL of 2 M NaOH were added. The reaction mixture was heated at 80° C. for 0.5 h. The mixture was neutralized with HCl and extracted with DCM. The combined organic extracts were evaporated under reduced pressure. The residue was dissolved in 20 mL of DMF and purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 60 mL/min.) to afford the title compound (88 mg, 30%). LCMS calc. for C23H22N3O5 [M+H]+: m/z=420.2. found: 420.2.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 0.7 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | 2-piperidinone | 0.91 mmol, 90 mg | N1C(CCCC1)=O | C5H9NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.049 mmol, 0.020 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cs2CO3 | 0.86 mmol, 0.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.064 mmol, 0.010 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-{[(Benzyloxy)carbonyl]amino}-7-(2-oxopiperidin-1-yl)quinoline-2-carboxylic acid | 88 mg, 30% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1C(CCCC1)=O)C(=O)O | C23H21N3O5
